US07696231B2
b) Preparation of N-[4-(hydrazinocarbonyl)benzyl]-3-nitrobenzamide (Sheme 2, compound B)
To a suspension of 4-{[(3-nitrobenzoyl)amino]methyl}benzoate (500 mg, 1.59 mmol) in EtOH (6 mL) was added hydrazine hydrate (1.16 mL). After stirring for 15 h at reflux, the reaction mixture was cooled to rt and a white solid precipitated out. Filtration, washing with EtOH (2×2 mL), EtOH/water (2×2 mL)and water (2×2 mL), and drying under vacuo at 70° C. for 5 hrs gave 379 mg of the title compound (76%) as a pale yellow solid in 96.5% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 4-{[(3-nitrobenzoyl)amino]methyl}benzoate | 1.59 mmol, 500 mg | [N+](=O)([O-])C=1C=C(C(=O)NCC2=CC=C(C(=O)[O-])C=C2)C=CC1
reactant | hydrazine hydrate | 1.16 mL | O.NN
solvent | EtOH | 6 mL | CCO | C2H6O
product | N-[4-(hydrazinocarbonyl)benzyl]-3-nitrobenzamide | 379 mg, 76% | N(N)C(=O)C1=CC=C(CNC(C2=CC(=CC=C2)[N+](=O)[O-])=O)C=C1 | C15H14N4O4
